US04350817
4-[(Chloroacetyl)Amino]-1,2-Dihydro-2-Oxo-1-(2-Propenyl)-1,8-Naphthyridine-3-Carboxylic Acid
A stirred mixture of 4 g. of 1-allyl-4-amino-1,2-dihydro-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester in 30 ml. of chloroacetyl chloride was heated under reflux for 1 hour. The chloroacetyl chloride was evaporated in a rotary evaporator and the residue was triturated with 20 ml. of ethyl acetate. The insoluble material was collected and was recrystallized from ethyl acetate to give 1.2 g. of product, m.p. 145°-148° C.

reactant | 1-allyl-4-amino-1,2-dihydro-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(N(C2=NC=CC=C2C1N)CC=C)=O | C14H15N3O3
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | 4-[(Chloroacetyl)Amino]-1,2-Dihydro-2-Oxo-1-(2-Propenyl)-1,8-Naphthyridine-3-Carboxylic Acid | ClCC(=O)NC1=C(C(N(C2=NC=CC=C12)CC=C)=O)C(=O)O | C14H12ClN3O4
